US07776847B2
To a solution of 4-iodobenzoic acid (270 mg, 0.8 mmol) in methylene chloride (2 mL), diethyl cyanophosphonate (130 μL, 0.9 mmol) and 4-methylmorpholine (182 μL, 1.7 mmol) were added at room temperature and allowed to stir for 15 min. A solution of 3-(3-aminopropylamino)-N-t-butylbenzo[d]isothiazole-7-sulfonamide (270 mg, 0.8 mmol) in methylene chloride (4 mL) was then added and the resulting reaction mixture was allowed to stir overnight. The reaction mixture with diluted with methylene chloride (20 mL), washed with 10% HCl aqueous solution and brine, dried anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by column chromatography, on silica gel, eluting with 6:4 ethyl acetate:hexanes provided N-(3-(7-(N-tert-butylsulfamoyl)benzo[d]isothiazol-3-ylamino)propyl)-4-iodobenzamide (355 mg). 1H NMR (300 MHz, CDCl3): 8.01 (dd, 1H), 7.96 (d, 1H), 7.78 (d, 2H), 7.59 (d, 2H), 7.53 (t, 1H), 7.44 (t, 1H), 6.15 (t, 1H), 5.09 (s, 1H), 3.70 (dd, 2H), 3.57 (dd, 2H), 1.90-1.99 (m, 2H), 1.24 ppm (s, 9H). MS (m/z): 573 (M+H)+ confirmed by LC-MS, tr=13.92 min (Method Y) MW=572 confirmed by LC-MS, tr=13.92 min (Method Y) MH+=573.

reactant | 4-iodobenzoic acid | 0.8 mmol, 270 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | diethyl cyanophosphonate | 0.9 mmol, 130 μL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | 4-methylmorpholine | 1.7 mmol, 182 μL | CN1CCOCC1 | C5H11NO
reactant | 3-(3-aminopropylamino)-N-t-butylbenzo[d]isothiazole-7-sulfonamide | 0.8 mmol, 270 mg | NCCCNC1=NSC2=C1C=CC=C2S(=O)(=O)NC(C)(C)C | C14H22N4O2S2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(7-(N-tert-butylsulfamoyl)benzo[d]isothiazol-3-ylamino)propyl)-4-iodobenzamide | 355 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=CC=2C(=NSC21)NCCCNC(C2=CC=C(C=C2)I)=O | C21H25IN4O3S2
